US07259266B2
Step 1. Preparation of ethyl 8-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
The tricyclohexylphosphine (0.08 g, 0.28 mmole) and Pd(dba)2 (0.07 g, 0.12 mmole) suspended in anhydrous dioxane (20 mL) was stirred for 15 minutes resulting in a red colored solution. Ethyl 6-bromo-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 613a, Step 2 (1.43 g, 3.92 mmole), potassium acetate (0.58 g, 5.88 mmole), and bis (pinacolato)diboron (1.09 g, 4.31 mmole) was added and the resulting mixture was heated to 80° C. (oil bath) for 18 hours. The contents were poured into water (20 ml) and extracted with EtOAc (2×40 mL). The combined extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo to give a dark green oil (1.62 g, 98%). No further purification was performed. GCMS m/z 412.0 (M+). LCMS m/z 413.0 (M+H).

reactant | Ethyl 6-bromo-8-methyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | BrC=1C=C2C=C(C(OC2=C(C1)C)C(F)(F)F)C(=O)OCC | C14H12BrF3O3
reactant | potassium acetate | 5.88 mmole, 0.58 g | C(C)(=O)[O-].[K+]
reactant | bis (pinacolato)diboron | 4.31 mmole, 1.09 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | water | 20 ml | O | H2O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dba)2 | 0.12 mmole, 0.07 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | tricyclohexylphosphine | 0.28 mmole, 0.08 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
product | ethyl 8-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 1.62 g, 98% | CC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)B1OC(C(O1)(C)C)(C)C | C20H24BF3O5
